US06420364B1
Morpholine-4-carboxylic Acid {1-[4-Cyano-1-(morpholine4-carbonyl)-piperidin-4-ylcarbamoyl-1-3,3-dimethyl-butyl]-amide
The title compound is prepared from morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide hydrochloride and 4-morpholine carbonyl chloride in the presence of a tertiary amine base such as N-methylmorpholine in a solvent such as methylene chloride.

reactant | morpholine-4-carboxylic acid [1-(4-cyano-piperidin-4-ylcarbamoyl)-3,3-dimethyl-butyl]-amide hydrochloride | Cl.C(#N)C1(CCNCC1)NC(=O)C(CC(C)(C)C)NC(=O)N1CCOCC1
reactant | 4-morpholine carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Morpholine-4-carboxylic Acid | N1(CCOCC1)C(=O)O | C5H9NO3
